US05006531
1'-Methyl-5,6-dihydrospiro[1H-indolo[3,2-c]quinoline-6,4'-piperdine]
To a solution prepared from 8 g of 2-(2-aminophenyl)indole, 2.5 ml of acetic acid and 100 ml of ethanol was added 5.15 g of 1-methyl-4-piperidone. The mixture was refluxed for 6 hours. Concentration gave a gum which was triturated with dilute NH4OH and the resultant solid was collected. Flash chromatography using 10% CH3OH/CH2Cl2 as an eluent gave 4.15 g of yellow solid, m.p. 228°-230° dec.

reactant | 2-(2-aminophenyl)indole | 8 g | NC1=C(C=CC=C1)C=1NC2=CC=CC=C2C1 | C14H12N2
reactant | acetic acid | 2.5 ml | C(C)(=O)O | C2H4O2
reactant | 1-methyl-4-piperidone | 5.15 g | CN1CCC(CC1)=O | C6H11NO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1'-Methyl-5,6-dihydrospiro[1H-indolo[3,2-c]quinoline-6,4'-piperdine] | 4.15 g | CN1CCC2(CC1)NC1=CC=CCC1=C1C2=C2C=CC=CC2=N1 | C20H21N3
